US06528525B1
(c) Ethyl 2-methyl-2-phenoxy-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate
In a similar manner to that described in Reference example 3(e), a reaction was carried out using ethyl 3-(4-hydroxyphenyl)-2-methyl-2-phenoxypropionate (1.55 g), which is the product of Reference example 8(b), 2-(2-bromoethoxy)tetrahydropyran (1.08 g) and potassium carbonate (2.14 g) in dimethylacetamide and the reaction mixture was treated to afford the desired compound (1.60 g) as a syrup.

reactant | ethyl 3-(4-hydroxyphenyl)-2-methyl-2-phenoxypropionate | 1.55 g | OC1=CC=C(C=C1)CC(C(=O)OCC)(OC1=CC=CC=C1)C | C18H20O4
reactant | 2-(2-bromoethoxy)tetrahydropyran | 1.08 g | BrCCOC1OCCCC1 | C7H13BrO2
reactant | potassium carbonate | 2.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | Ethyl 2-methyl-2-phenoxy-3-[4-[2-(tetrahydropyran-2-yloxy)ethoxy]phenyl]propionate | 1.60 g | CC(C(=O)OCC)(CC1=CC=C(C=C1)OCCOC1OCCCC1)OC1=CC=CC=C1 | C25H32O6
